US07491716B2
(5-Fluoro-2-nitrophenyl)methanol
Dissolve 5-fluoro-2-nitrobenzoic acid (15 g, 81.08 mmol) in anhydrous tetrahydrofuran (200 mL) and add dropwise with stirring at 20° C. a 1 molar solution of borane in tetrahydrofuran (243 ml, 243 mmol). Stir the mixture at 20° C. for 72 hours then add methanol (200 ml). Concentrate under reduced pressure and purify the residue by flash column chromatography (silica gel, 10-30% ethyl acetate/hexane) to obtain 13.92 g (100%) of the title compound as a white solid.

reactant | 5-fluoro-2-nitrobenzoic acid | 81.08 mmol, 15 g | FC=1C=CC(=C(C(=O)O)C1)[N+](=O)[O-] | C7H4FNO4
reactant | borane | B | BH3
reactant | methanol | 200 ml | CO | CH4O
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 243 mmol, 243 ml | O1CCCC1 | C4H8O
product | (5-Fluoro-2-nitrophenyl)methanol | 13.92 g, 100% | FC=1C=CC(=C(C1)CO)[N+](=O)[O-] | C7H6FNO3
